US08604055B2
Step (ix): Synthesis of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazole-5-yl)-amino]-methyl}-5,6-dimethyl-pyridin-2-yl)-bis-cyclopropylmethyl-amine
To a suspension of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-5,6-dimethyl-pyridin-2-yl)-bis-cyclopropylmethyl-amine (0.3 g, 0.54 mmol), obtained in step (viii), in water (4 mL) was added sodium hydroxide (0.04 g, 1.0 mmol), and this mixture was stirred for 15 min at RT, followed by the addition of DCM (4 mL). Dimethyl sulfate (0.13 g, 1.03 mmol) was then added to this mixture, followed by the addition of tetrabutylammonium bromide (0.008 g, 0.024 mmol). The mixture was then stirred for 0.5 h, after which the organic layer was separated from the aqueous layer which was extracted with DCM (3×10 mL). The combined organic layer was washed with brine, dried over sodium sulfate, and then concentrated under vacuum to afford the title compound as light yellow oil (0.200 g, yield: 66.6%).

reactant | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-5,6-dimethyl-pyridin-2-yl)-bis-cyclopropylmethyl-amine | 0.54 mmol, 0.3 g | FC(C=1C=C(CN(C=2N=NNN2)CC=2C(=NC(=C(C2)C)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C26H29F6N7
reactant | sodium hydroxide | 1.0 mmol, 0.04 g | [OH-].[Na+]
reactant | DCM | 4 mL | C(Cl)Cl | CH2Cl2
reactant | Dimethyl sulfate | 1.03 mmol, 0.13 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 4 mL | O | H2O
catalyst | tetrabutylammonium bromide | 0.024 mmol, 0.008 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazole-5-yl)-amino]-methyl}-5,6-dimethyl-pyridin-2-yl)-bis-cyclopropylmethyl-amine | 0.200 g, yield: 66.6% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC(=C(C2)C)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C27H31F6N7
